US04022795
The procedure of Example 15 is repeated except that the 4 parts of sodium diisopropyl naphthalene sulphonate are replaced by 4 parts of sodium dodecylbenzene sulphonate. Again all the bromobenzene is reduced, but mainly to benzene, so that only 0.94 parts of biphenyl are isolated.

reactant | sodium dodecylbenzene sulphonate | C(CCCCCCCCCCC)OS(=O)(=O)C1=CC=CC=C1.[Na]
reactant | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
solvent | benzene | C1=CC=CC=C1 | C6H6
product | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
